US09399637B2
Step 4) tert-butyl 9-((2,5-dichloropyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of 2,4,5-trichloropyrimidine (495.9 mg, 2.7 mmol) in ethanol (20 mL) were added tert-butyl 9-amino-3-azaspiro[5.5]undecane-3-carboxylate (1.08 g, 4.0 mmol) and Et3N (413.6 mg, 4.1 mmol). The mixture was stirred at room temperature for 12 h and then concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/10 to 1/7) to give the product as a light yellow solid (387.1 mg, 34.5%).

reactant | 2,4,5-trichloropyrimidine | 2.7 mmol, 495.9 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | tert-butyl 9-amino-3-azaspiro[5.5]undecane-3-carboxylate | 4.0 mmol, 1.08 g | NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H28N2O2
reactant | Et3N | 4.1 mmol, 413.6 mg | CCN(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-butyl 9-((2,5-dichloropyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 387.1 mg, 34.5% | ClC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)Cl | C19H28Cl2N4O2
